### PR TITLE
[Merged by Bors] - feat: category of $R$-modules has enough injectives

### PR DESCRIPTION
**Pull request by jjaassoonn**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Abelian/Transfer.lean [hunk 1]
```diff
@@ -20,6 +22,10 @@ then `C` is also abelian.
 
 See <https://stacks.math.columbia.edu/tag/03A3>
 
+## enough-injectives
+If `C, D` are abelian categories with adjoint functors `L ⊣ R` where `L` is a faithful exact
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Abelian/Transfer.lean:26]: It's not clear in this docstring whether `L` or `R` is a functor from `C` to `D`.

File: Mathlib/CategoryTheory/Abelian/Transfer.lean [hunk 2]
```diff
@@ -198,4 +204,148 @@ def abelianOfEquivalence {C : Type u₁} [Category.{v} C] [Preadditive C] [HasFi
   abelianOfAdjunction F F.inv F.asEquivalence.unitIso.symm F.asEquivalence.symm.toAdjunction
 #align category_theory.abelian_of_equivalence CategoryTheory.abelianOfEquivalence
 
+namespace transfer_enough_injectives
+
+variable {𝒜: Type u₁} {ℬ : Type u₂} [Category.{v₁} 𝒜] [Category.{v₂} ℬ]
+variable [EnoughInjectives ℬ]
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Abelian/Transfer.lean:210]: Do the constructions here really all need `EnoughInjectives`, or does it suffice to mostly work with an injective hull for some fixed object, until the very end where you prove that you can transfer `EnoughInjectives` along the adjunction?

File: Mathlib/CategoryTheory/Abelian/Transfer.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/CategoryTheory/Abelian/Transfer.lean:26]: Add more explanation

File: Mathlib/CategoryTheory/Abelian/Transfer.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/CategoryTheory/Abelian/Transfer.lean]: Indeed, assuming just an injective hull is sufficient

File: Mathlib/CategoryTheory/Abelian/Transfer.lean [hunk 3]
```diff
@@ -198,4 +212,150 @@ def abelianOfEquivalence {C : Type u₁} [Category.{v} C] [Preadditive C] [HasFi
...
+    Category.assoc, Adjunction.counit_naturality, Adjunction.left_triangle_components_assoc]
+  generalize_proofs h1 h2
+  congr 4
+  ext
+  rw [h1.choose_spec]
+
+lemma injective_adjointObjectOfInjectivePresentation_of_adj [PreservesFiniteLimits L] {A : 𝒜}
+    (a : InjectivePresentation <| L.obj A) :
+    Injective (adjointObjectOfInjectivePresentation L R a) where
+  factors _ _ _ := ⟨_, adjointToInjective_spec adj a _ _⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Transfer.lean:305]: It would be nice to state separately that if `M : ℬ` is injective, then `R.obj M` is also injective (under the assumption that `L` preserves monomorphisms). (This is related to `CategoryTheory.LiftingProperties.Adjunction`, even though it may not be necessary to use that...) Then, the core argument here seems to be that if `A : 𝒜`, and `L.obj A` embeds in an (injective) object `I : ℬ`, then the adjoint map `A ⟶ R.obj I` is also a mono (essentially what you prove in `mono_toUnder`, but there is a more direct proof relying directly on the adjunction, without the need to introduce the kernel). It seems to me that doing so would significantly shorten the length of the code.

File: Mathlib/Algebra/Category/ModuleCat/Injective.lean [hunk 4]
```diff
@@ -0,0 +1,47 @@
...
+      (forget₂ (ModuleCat.{max v u} ℤ) AddCommGroupCat.{max v u}).asEquivalence.functor ≅
+      forget₂ (ModuleCat.{max v u} R) AddCommGroupCat.{max v u} :=
+    { hom :=
+      { app := fun _ => 𝟙 _
+        naturality := by aesop_cat }
+      inv :=
+      { app := fun _ => 𝟙 _
+        naturality := by aesop_cat }
+      hom_inv_id := by aesop_cat
+      inv_hom_id := by aesop_cat }
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Category/ModuleCat/Injective.lean:45]: Why not just 
```lean
(((ModuleCat.restrictCoextendScalarsAdj.{max v u} (algebraMap ℤ R))).comp <|
      (forget₂ (ModuleCat ℤ) AddCommGroupCat).asEquivalence.toAdjunction).ofNatIsoLeft <| Iso.refl _
```

File: Mathlib/CategoryTheory/Abelian/Transfer.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/CategoryTheory/Abelian/Transfer.lean]: by avoiding `kernel`, it turns out assuming abelian-ness of categories are unnecessary! Thanks

File: Mathlib/CategoryTheory/Preadditive/Injective.lean [hunk 5]
```diff
@@ -346,8 +346,40 @@ def mapInjectivePresentation (adj : F ⊣ G) [F.PreservesMonomorphisms] (X : D)
     haveI : PreservesLimitsOfSize.{0, 0} G := adj.rightAdjointPreservesLimits; infer_instance
 #align category_theory.adjunction.map_injective_presentation CategoryTheory.Adjunction.mapInjectivePresentation
 
+/-- Given an adjunction `F ⊣ G` such that `F` preserves finite limits and is faithful,
+  then any injective presentation of `F(X)` can be pulled back to an injective presentation of `X`.
+  This is similar to `mapInjectivePresentation`. -/
+def injectivePresentationOfMapInjectivePresentation (adj : F ⊣ G)
+    [PreservesFiniteLimits F] [Faithful F] (X : C)
+    (I : InjectivePresentation <| F.obj X) :
+    InjectivePresentation X where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Preadditive/Injective.lean:355]:
```suggestion
/-- Given an adjunction `F ⊣ G` such that `F` preserves monomorphisms and is faithful,
  then any injective presentation of `F(X)` can be pulled back to an injective presentation of `X`.
  This is similar to `mapInjectivePresentation`. -/
def injectivePresentationOfMapInjectivePresentation (adj : F ⊣ G)
    [F.PreservesMonomorphisms] [Faithful F] (X : C)
    (I : InjectivePresentation <| F.obj X) :
    InjectivePresentation X where
```

File: Mathlib/CategoryTheory/Preadditive/Injective.lean [hunk 6]
```diff
@@ -346,8 +346,40 @@ def mapInjectivePresentation (adj : F ⊣ G) [F.PreservesMonomorphisms] (X : D)
...
+  J := G.obj I.J
+  injective := Injective.injective_of_adjoint adj _
+  f := adj.homEquiv _ _ I.f
+  mono := by
+    have eq1 : F.map (adj.homEquiv _ _ <| I.f) ≫ (adj.counit.app _) = I.f := by simp
+    have : Mono (F.map (adj.homEquiv _ _ <| I.f) ≫ (adj.counit.app _)) := eq1.symm ▸ I.mono
+    have : Mono (F.map (adj.homEquiv _ _ <| I.f)) := mono_of_mono _ (adj.counit.app I.J)
+    simp_all only [Functor.id_obj, Functor.mono_map_iff_mono]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Preadditive/Injective.lean:363]:
```suggestion
```

You may remove the proof of `mono` if you add this instance:
```
instance (adj : F ⊣ G) {X : C} {Y : D} (f : F.obj X ⟶ Y) [Mono f] [Faithful F] :
    Mono (adj.homEquiv _ _ f) where
  right_cancellation _ _ h := F.map_injective
    (by simpa only [← cancel_mono f] using (adj.homEquiv _ _).injective (by simpa using h))
```

Comment (jjaassoonn) [reply Mathlib/CategoryTheory/Preadditive/Injective.lean]: thanks

**Review by alreadydone — COMMENTED** [review]
I have some generalizations at [this commit](https://github.com/leanprover-community/mathlib4/commit/979d79f70b975a8e65c463f4597415d32c1a85cd); feel free to merge.

File: Mathlib/CategoryTheory/Adjunction/Basic.lean [hunk 7]
```diff
@@ -482,6 +482,15 @@ instance rightAdjointOfComp {E : Type u₃} [Category.{v₃} E] {F : C ⥤ D} {G
 
 end
 
+section mono_epi
+
+instance (adj : F ⊣ G) {X : C} {Y : D} (f : F.obj X ⟶ Y) [Mono f] [Faithful F] :
+    Mono (adj.homEquiv _ _ f) where
+  right_cancellation _ _ h := F.map_injective
+    (by simpa only [← cancel_mono f] using (adj.homEquiv _ _).injective (by simpa using h))
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Adjunction/Basic.lean:490]: This one can be generalized to [F.ReflectsMonomorphisms] as I did in my commit. Should we keep this?

Comment (jjaassoonn) [reply Mathlib/CategoryTheory/Adjunction/Basic.lean:490]: I think we should just keep the version with `[F.ReflectsMonomorphisms]`

Comment (alreadydone) [reply Mathlib/CategoryTheory/Adjunction/Basic.lean:490]: Note that it has to live in the file EpiMono though, where ReflectsMonomorphisms is defined.

Comment (jjaassoonn) [reply Mathlib/CategoryTheory/Adjunction/Basic.lean]: done

File: Mathlib/Algebra/Category/ModuleCat/Injective.lean [hunk 8]
```diff
@@ -0,0 +1,35 @@
...
+of abelian groups needs `Algebra/Module/Injective.lean` and this file needs enough-injectives of
+abelian groups.
+-/
+
+open CategoryTheory
+
+universe u v
+variable (R : Type u) [Ring R]
+
+instance : EnoughInjectives (ModuleCat.{max v u} R) :=
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/ModuleCat/Injective.lean:32]: Indeed, the following does **not** work
```lean
instance : EnoughInjectives (ModuleCat.{u} R) := inferInstance
```
where `R` lives in universe `u` as well

[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/ModuleCat/Injective.lean:32]: Does this mean `ModuleCat.restrictCoextendScalarsAdj` need to use `UnivLE` also?

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Algebra/Category/ModuleCat/Injective.lean:32]: > Indeed, the following does **not** work
```lean
instance : EnoughInjectives (ModuleCat.{u, u} R) := inferInstance
```
> where `R` lives in universe `u` as well

Yeah, Lean 4 refuses to unify `max u v` with `u` because `v` can be either `0` or `u`. This `{u,u}` version could be an instance (as well as `{u+1, u}`, `{u, 0}`, but they will subsumed by the instance with UnivLE).

> Does this mean `ModuleCat.restrictCoextendScalarsAdj` need to use `UnivLE` also?

Not necessarily, as you can specify the universes explicitly when using it.

File: Mathlib/CategoryTheory/Preadditive/Injective.lean [hunk 9]
```diff
@@ -346,8 +346,35 @@ def mapInjectivePresentation (adj : F ⊣ G) [F.PreservesMonomorphisms] (X : D)
...
+    {L : C ⥤ D} {R : D ⥤ C} (adj : L ⊣ R) [L.PreservesMonomorphisms] [L.ReflectsMonomorphisms]
+    [EnoughInjectives D] : EnoughInjectives C where
+  presentation _ :=
+    ⟨adj.injectivePresentationOfMapInjectivePresentation _ (EnoughInjectives.presentation _).some⟩
+
+/-- An equivalence of categories transfers enough injectives. -/
+lemma EnoughInjectives.of_equivalence {C : Type u₁} {D : Type u₂}
+    [Category.{v₁} C] [Category.{v₂} D]
+    (e : C ⥤ D) [IsEquivalence e] [EnoughInjectives D] : EnoughInjectives C :=
+EnoughInjectives.of_adjunction (adj := e.asEquivalence.toAdjunction)
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Preadditive/Injective.lean:376]:
```suggestion
  EnoughInjectives.of_adjunction (adj := e.asEquivalence.toAdjunction)
```

File: Mathlib/Algebra/Category/ModuleCat/Injective.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/ModuleCat/Injective.lean:32]: Can you elaborate please, I tried the following
```lean
instance [UnivLE.{u, v}] : EnoughInjectives (ModuleCat.{v, u} R) := 
  EnoughInjectives.of_adjunction (ModuleCat.restrictCoextendScalarsAdj.{v, 0, u} (algebraMap ℤ R))
```
Looks like that Lean 4 doesn't see `Type v` and `Type {max v u}` are the same.

A minimal example is perhaps this:
```lean
example [UnivLE.{u, v}] : ModuleCat.{v} ℤ ⥤ ModuleCat.{v, u} R :=
  ModuleCat.coextendScalars.{0, u, v} (algebraMap ℤ R)
```
does not compile

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Algebra/Category/ModuleCat/Injective.lean:32]: `UnivLE.{u, v}` says every type in universe u is in bijection with some type in universe v (after my refactor #8556). It doesn't give you `v = max u w` for some `w` (and I don't think it's currently possible to state this in Lean). It seems a bit nontrival to transfer EnoughInjectives from `max u v` to `UnivLE`, so I suggest you just leave it as a `def` for now and manually specify the universes when you want to use it.

[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/ModuleCat/Injective.lean]: Thanks for the suggestion. I have changed instance to a def. I realized that we know `Module.Baer` implies injectivity but not the otherway around.

File: Mathlib/CategoryTheory/Preadditive/Injective.lean [hunk 10]
```diff
@@ -358,24 +385,12 @@ theorem map_injective_iff (P : C) : Injective (F.functor.obj P) ↔ Injective P
...
-  · exact
-      F.injectivePresentationOfMapInjectivePresentation X
-        (Nonempty.some (H.presentation (F.functor.obj X)))
+theorem enoughInjectives_iff (F : C ≌ D) : EnoughInjectives C ↔ EnoughInjectives D :=
+  ⟨fun h => h.of_adjunction F.symm.toAdjunction, fun h => h.of_adjunction F.toAdjunction⟩
 #align category_theory.equivalence.enough_injectives_iff CategoryTheory.Equivalence.enoughInjectives_iff
 
 end Equivalence
-
-end CategoryTheory
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Preadditive/Injective.lean:381]: It's a bit strange that Lean now doesn't require every namespace/section be ended ...

File: Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean [hunk 11]
```diff
@@ -84,11 +84,15 @@ def restrictScalars {R : Type u₁} {S : Type u₂} [Ring R] [Ring S] (f : R →
...
 
-instance {R : Type u₁} {S : Type u₂} [CommRing R] [CommRing S] (f : R →+* S) :
+instance {R : Type u₁} {S : Type u₂} [Ring R] [Ring S] (f : R →+* S) :
     CategoryTheory.Faithful (restrictScalars.{v} f) where
   map_injective h :=
     LinearMap.ext fun x => by simpa only using FunLike.congr_fun h x
 
+instance {R : Type u₁} {S : Type u₂} [Ring R] [Ring S] (f : R →+* S) :
+    (restrictScalars.{v} f).PreservesMonomorphisms where
+  preserves {X Y} f {h} := by rwa [mono_iff_injective] at h ⊢
```
Comment (alreadydone) [inline Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean:94]:
```suggestion
  preserves _ {h} := by rwa [mono_iff_injective] at h ⊢
```
(untested)

File: Mathlib/CategoryTheory/Preadditive/Injective.lean [hunk 12]
```diff
@@ -346,8 +346,35 @@ def mapInjectivePresentation (adj : F ⊣ G) [F.PreservesMonomorphisms] (X : D)
     haveI : PreservesLimitsOfSize.{0, 0} G := adj.rightAdjointPreservesLimits; infer_instance
 #align category_theory.adjunction.map_injective_presentation CategoryTheory.Adjunction.mapInjectivePresentation
 
+/-- Given an adjunction `F ⊣ G` such that `F` preserves monomorphisms and is faithful,
+  then any injective presentation of `F(X)` can be pulled back to an injective presentation of `X`.
+  This is similar to `mapInjectivePresentation`. -/
+def injectivePresentationOfMapInjectivePresentation (adj : F ⊣ G)
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Preadditive/Injective.lean:352]: The name is a bit lengthy, how about
```suggestion
def injectivePresentationOfMap (adj : F ⊣ G)
```
? Such names seem common in mathlib.

**Review by alreadydone — APPROVED** [review]
Sorry, forgotten about this PR.

**Review by alreadydone — APPROVED** [review]
Thanks!

maintainer merge

**Comment by jjaassoonn** [comment]
Is it normal that this has been on queue for this long time please? @alreadydone

**Comment by alreadydone** [comment]
> Is it normal that this has been on queue for this long time please?

Sometimes it happens! Maybe one of the maintainers @adamtopaz and @joelriou could take another look and send it to bors?

**Comment by mattrobball** [comment]
bors merge

File: Mathlib/Algebra/Category/ModuleCat/Injective.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Algebra/Category/ModuleCat/Injective.lean]: #8734
